US04352805
A mixture of 1.52 g of 6,7-dimethoxy-4,4-dimethyl-1-bromomethylisochroman, 1.35 g of 4-(4-chlorophenyl)-1,2,3,6-tetrahydropyridine, and 2 ml. of triethylamine in 5 ml of DMF are heated at 50° C. for 23 hr. The mixture is partitioned between methylene chloride and aqueous potassium carbonate. The organic phase is dried over sodium sulfate and concentrated. The residue is chromatographed over silica gel utilizing 5% methanol/1/2% ammonium hydroxide/methylene chloride to give a 21% yield 4-(4-chloro phenyl)-1-[(3,4-dihydro-4,4-dimethyl-6,7-dimethoxy-1H-2-benzopyran-1-yl)methyl]-1,2,3,6-tetrahydropyridine.

reactant | 6,7-dimethoxy-4,4-dimethyl-1-bromomethylisochroman | 1.52 g | COC=1C=C2C(COC(C2=CC1OC)CBr)(C)C | C14H19BrO3
reactant | 4-(4-chlorophenyl)-1,2,3,6-tetrahydropyridine | 1.35 g | ClC1=CC=C(C=C1)C=1CCNCC1 | C11H12ClN
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 4-(4-chloro phenyl)-1-[(3,4-dihydro-4,4-dimethyl-6,7-dimethoxy-1H-2-benzopyran-1-yl)methyl]-1,2,3,6-tetrahydropyridine | 21% yield | ClC1=CC=C(C=C1)C=1CCN(CC1)CC1OCC(C2=C1C=C(C(=C2)OC)OC)(C)C | C25H30ClNO3
